* C:\Users\Nick\Documents\GitHub\Micro-DMM\LTSpice\Voltmeter W Continuity.asc
V1 N010 0 5
R1 N005 N007 500K
R2 N006 N009 500k
R3 N008 N009 22K
R4 0 N009 10Meg
XU1 N007 0 ADR5041
V2 N004 N003 SINE(0 100 5)
R5 N007 N010 4.7K
D1 N009 N010 1N5817
D2 0 N009 1N5817
R6 N002 N001 .1
M1 N007 N011 N008 N008 IRFZ44N
V3 N011 0 PULSE(0 9 0.5 0 0 0.5 1)
R7 0 N011 1k
R8 0 N007 10Meg
.model D D
.lib C:\Users\Nick\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Nick\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* (This simulates a MOSFET driver\ncontrolled by an GPIO)
* (This simulates ADC \nconnection 2/2)
* (This simulates ADC \nconnection 1/2)
* Probe 1
* Probe 2
.lib ADR5041.sub
.backanno
.end
